US04497815
5-Fluorouracil, 3.9 g, was dissolved in 80 ml of pyridine, the solution was cooled to 5° C., and 4 g of phosgene was blown into it. After stirring at 20° C. for 2 hr, the solution was cooled to 5° C., 5.8 g of 2, 3, 4-trimethoxybenzylamine and 3 ml of trimethylamine were gradually added to it, and the temperature was raised to 20° C. in 2 hr. After removing precipitate, pyridine was evaporated from the solution. Hydrochloric acid water and dichloromethane were added to the remainder. The solution was shaked, the dichloromethane layer was evaporated, the residue was recrystallized from methanol, and 4.5 g of 1-(2, 3, 4-trimethoxybenzylcarbamoyl)-5-fluorouracil (melting point: 159° C.) was obtained (Compound No. 7). NMR: 2.74 (6H s CH3) 2.98 (3H s CH3) 4.48 (2H d CH2) 6.7-7.1 (2H m C6H2) 8.42 (H d C6 -H) 9.56 (H s NH).

reactant | 5-Fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | phosgene | 4 g | C(=O)(Cl)Cl | CCl2O
reactant | 2, 3, 4-trimethoxybenzylamine | 5.8 g | COC1=C(CN)C=CC(=C1OC)OC | C10H15NO3
reactant | trimethylamine | 3 ml | CN(C)C | C3H9N
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2, 3, 4-trimethoxybenzylcarbamoyl)-5-fluorouracil | 4.5 g | COC1=C(CNC(=O)N2C(=O)NC(=O)C(=C2)F)C=CC(=C1OC)OC | C15H16FN3O6
